### PR TITLE
[Merged by Bors] - feat: if `1 < x` then `y ^ n < x` for some `1 < y`

### PR DESCRIPTION
**Pull request by vihdzp**
Co-authored-by: Yaël Dillies <yael.dillies@gmail.com>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Order/Group/DenselyOrdered.lean [hunk 1]
```diff
@@ -3,9 +3,12 @@ Copyright (c) 2016 Jeremy Avigad. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Jeremy Avigad, Leonardo de Moura, Mario Carneiro, Johannes Hölzl
 -/
+import Mathlib.Algebra.Order.Group.Defs
 import Mathlib.Algebra.Order.Group.Unbundled.Basic
+import Mathlib.Algebra.Order.Monoid.Defs
 import Mathlib.Algebra.Order.Monoid.Unbundled.OrderDual
 import Mathlib.Algebra.Order.Monoid.Unbundled.ExistsOfLE
```
Comment (themathqueen) [inline Mathlib/Algebra/Order/Group/DenselyOrdered.lean]: reorder alphabetically:
```suggestion
import Mathlib.Algebra.Order.Monoid.Unbundled.ExistsOfLE
import Mathlib.Algebra.Order.Monoid.Unbundled.OrderDual
```

File: Mathlib/Algebra/Order/Group/DenselyOrdered.lean [hunk 2]
```diff
@@ -83,3 +86,39 @@ lemma mul_le_of_forall_lt [CommGroup α] [LinearOrder α] [MulLeftMono α]
...
+      _ ≤ (2 * (n + 1)) • z := nsmul_left_monotone hz.le (by omega)
+      _ = (n + 1) • 2 • z := by rw [← mul_nsmul]
+      _ ≤ (n + 1) • y := nsmul_le_nsmul_right hzy _
+
+end Monoid
+
+section Group
+variable [AddCommGroup M] [IsOrderedCancelAddMonoid M]
+
+theorem exists_nsmul_gt_of_neg (hx : x < 0) (n : ℕ) : ∃ y : M, y < 0 ∧ x < n • y := by
```
Comment (YaelDillies) [inline Mathlib/Algebra/Order/Group/DenselyOrdered.lean]:
```suggestion
theorem exists_lt_nsmul_of_neg (hx : x < 0) (n : ℕ) : ∃ y : M, y < 0 ∧ x < n • y := by
```

**Review by YaelDillies — COMMENTED** [review]
Can you multiplicativise everything?

File: Mathlib/Algebra/Order/Group/DenselyOrdered.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Group/DenselyOrdered.lean]: You didn't do this!

Comment (vihdzp) [reply Mathlib/Algebra/Order/Group/DenselyOrdered.lean]: You didn't even let me push!

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

File: Mathlib/Algebra/Order/Group/DenselyOrdered.lean (hunk 2 above)
Comment (YaelDillies) [reply Mathlib/Algebra/Order/Group/DenselyOrdered.lean]: Well you'd removed `awaiting-author` 😅

**Comment by adomani** [comment]
Thanks!

Could you update the PR title, now that the results are multiplicativised and `to_additive`ised?

bors d+
